US05126448
In 20 ml of desiccated methanol was dissolved 515 mg of benzo[b]thieno[2,3-c]pyridine-3-carboxylic acid ethyl ester and after adding thereto 252 mg of hydrazine.di-chloride and 700 μl of triethylamine, the mixture was stirred for 2 days. Then, after refluxing the mixture for 2 hours, the temperature was allowed to lower to room temperature and crystals thus deposited were collected by filtration to provide 169 mg (yield of 0%) of benzo[b]thieno[2,3-c]pyridine-3-carbohydrazide.

reactant | benzo[b]thieno[2,3-c]pyridine-3-carboxylic acid ethyl ester | 515 mg | C(C)OC(=O)C=1CSC23C(=NC=CC21)C=CC=C3 | C14H13NO2S
reactant | hydrazine | 252 mg | NN | H4N2
reactant | triethylamine | 700 μl | C(C)N(CC)CC | C6H15N
solvent | methanol | 20 ml | CO | CH4O
product | benzo[b]thieno[2,3-c]pyridine-3-carbohydrazide | 169 mg, yield of 0% | S1CC(=C2C13C(=NC=C2)C=CC=C3)C(=O)NN | C12H11N3OS
